US06770617B2
(a-5) was synthesized by a dehydrating esterification reaction between stearic acid and N,N-dimethyl-1,3-propanediamine. Specifically, a four-neck flask equipped with a stirrer, a temperature gage and a dewatering pipe was charged with 120 g of N,N-dimethyl-1,3-propanediamine, 284 of stearic acid and 0.12 g of sodium borohydride and the mixture was raised to 180° C. The mixture was heated under stirring at this temperature for about 5 hours while distilling generated water and a part of N,N-dimethyl-1,3-propanediamine to be distilled together with water. The reaction mixture was then cooled to 120° C. and unreacted amine was distilled under reduced pressure (10 torr) to obtain 368 g of the target N-stearoylaminopropyl-N,N-dimethylamine (a-5).

reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | N,N-dimethyl-1,3-propanediamine | CN(CCCN)C | C5H14N2
reactant | N,N-dimethyl-1,3-propanediamine | 120 g | CN(CCCN)C | C5H14N2
reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
product | N-stearoylaminopropyl-N,N-dimethylamine | C(CCCCCCCCCCCCCCCCC)(=O)NCCCN(C)C | C23H48N2O
